US09340538B2
Step B: Methyl 2-(3-carbamimidoyl-1H-1,2,4-triazol-1-yl)acetate hydrochloride
Ethyl 2-(3-cyano-1H-1,2,4-triazol-1-yl)acetate (2 g, 11.2 mmol) was reacted with sodium methoxide (0.85 g, 15.68 mmol) and ammonium chloride (0.89 g, 16.8 mmol) according to the procedure as described in Example 61, Step B to give the title compound as a white solid (1.35 g, 55%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 2-(3-cyano-1H-1,2,4-triazol-1-yl)acetate | 11.2 mmol, 2 g | C(#N)C1=NN(C=N1)CC(=O)OCC | C7H8N4O2
reactant | sodium methoxide | 15.68 mmol, 0.85 g | C[O-].[Na+]
reactant | ammonium chloride | 16.8 mmol, 0.89 g | [Cl-].[NH4+]
product | Methyl 2-(3-carbamimidoyl-1H-1,2,4-triazol-1-yl)acetate hydrochloride | 1.35 g, 55% | Cl.C(N)(=N)C1=NN(C=N1)CC(=O)OC | InChI=1S/C6H9N5O2.ClH/c1-13-4(12)2-11-3-9-6(10-11)5(7)8;/h3H,2H2,1H3,(H3,7,8);1H
